US09126943B2
15 g (54 mmol) of 4-bromophenacyl bromide and 5.2 g (55 mmol) of 2-aminopyridine were dissolved in 100 mL of ethanol. Then, 7.0 g of sodium hydrogen carbonate was added, and the resultant was heated under reflux for 6 hours. After completion of the reaction, generated crystals were filtered out, washed with water and ethanol, whereby 12.5 g (yield 85%) of 2-(4-bromophenyl)-imidazo[1,2-a]pyridine was obtained.

reactant | 4-bromophenacyl bromide | 54 mmol, 15 g | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | 2-aminopyridine | 55 mmol, 5.2 g | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydrogen carbonate | 7.0 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-(4-bromophenyl)-imidazo[1,2-a]pyridine | 12.5 g, yield 85% | BrC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C13H9BrN2
